US07098212B2
4-[(2-tert-butoxycarbonylamino-ethyl)-(4-fluoro-benzyl)-amino]-but-2-enoic acid methyl ester
[2-(4-Fluoro-benzylamino)-ethyl]-carbamic acid tert-butyl ester (7.0 g, 26.1 mmol) and potassium carbonate (7.2 g, 52.2 mmol) were stirred in acetone (150 mL). A mixture of methyl 4-bromocrotonate (4.7 g, 26.1 mmol, 3.1 mL) in acetone (50 mL) was added to this solution dropwise using an addition funnel. After 18 h the solution was filtered, concentrated and chromatographed on silica gel to yield the title compound as a yellow oil (8.53 g).

reactant | [2-(4-Fluoro-benzylamino)-ethyl]-carbamic acid tert-butyl ester | 26.1 mmol, 7.0 g | C(C)(C)(C)OC(NCCNCC1=CC=C(C=C1)F)=O | C14H21FN2O2
reactant | potassium carbonate | 52.2 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-bromocrotonate | 26.1 mmol, 3.1 mL, 4.7 g | BrC/C=C/C(=O)OC | C5H7BrO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-[(2-tert-butoxycarbonylamino-ethyl)-(4-fluoro-benzyl)-amino]-but-2-enoic acid methyl ester | 8.53 g | COC(C=CCN(CC1=CC=C(C=C1)F)CCNC(=O)OC(C)(C)C)=O | C19H27FN2O4
